US07226930B2
A solution of 5-chloro-3-methyl-1-phenyl-1H-pyrazole (61.8 mg, 0.32 mmol) in 5 mL of THF was cooled to −78° C. and t-butyllithium (0.47 mL, 1.7 M in heptane) was slowly added. The mixture was stirred at −78° C. for 1.5 hours and then zinc chloride (1.56 mL, 0.5 M) was added and after stirring at −78° C. for 15 minutes was warmed to room temperature. A solution containing 4-bromo-2-cyclopentyloxy-1-methoxybenzene (148 mg, 0.54 mmol) and Pd(PPh3)4 (35 mg, 0.03 mmol) in 1 mL of THF was added and the reaction was heated to 60° C. for 12 hours. The mixture was diluted with 20 mL of ethyl acetate and the organic layer was washed with 10 mL of a saturated ammonium chloride solution, 20 mL of water and 20 mL of brine. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by silica gel column chromatography using a gradient elution from 20% to 50% ethyl acetate in hexanes yielded 31 mg of 5-(3-cyclopentyloxy-4-methoxyphenyl)-3-methyl-1-phenyl-1H-pyrazole. 1H-NMR (CDCl3, 300 MHz) δ 7.3 (m, 5H), 6.8 (m, 2H), 6.6 (d, 1H), 6.3 (s, 1H), 4.4 (m, 1H), 3.8 (s, 3H). 2.4 (s, 3H), 1.7-1.5 (m, 8H). (M+1)=349.1

reactant | 5-chloro-3-methyl-1-phenyl-1H-pyrazole | 0.32 mmol, 61.8 mg | ClC1=CC(=NN1C1=CC=CC=C1)C | C10H9ClN2
reactant | t-butyllithium | 1.7 M, 0.47 mL | C(C)(C)(C)[Li]
reactant | 4-bromo-2-cyclopentyloxy-1-methoxybenzene | 0.54 mmol, 148 mg | BrC1=CC(=C(C=C1)OC)OC1CCCC1 | C12H15BrO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 0.5 M, 1.56 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-cyclopentyloxy-4-methoxyphenyl)-3-methyl-1-phenyl-1H-pyrazole | 31 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(=NN1C1=CC=CC=C1)C | C22H24N2O2
